US07939535B2
Step 6: trans-4-{2-[4-(5,7-Difluoro-benzo[d]isoxazol-3-yl)-piperazin-1-yl]-ethyl}-cyclo-hexylamine hydrochloride (Intermediate F1)
trans-(4-{2-[4-(5,7-Difluoro-benzo[d]isoxazol-3-yl)-piperazin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester (2.59 g, 5.6 mmol) was dissolved in CH2Cl2 (40 ml) and 4 N HCl in dioxane (27.9 ml, 112 mmol) was slowly added. The resulting mixture was stirred over night at r.t. After dilution with iPr2O the product was collected by filtration and washed with one portion of iPr2O before drying it under high vacuum at 50° C. to obtain 1.98 g (88%) as a white solid. m/z=365.2 ([M+H]+).

reactant | trans-(4-{2-[4-(5,7-Difluoro-benzo[d]isoxazol-3-yl)-piperazin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester | 5.6 mmol, 2.59 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C1=NOC2=C1C=C(C=C2F)F)=O | C24H34F2N4O3
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 112 mmol, 27.9 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | trans-4-{2-[4-(5,7-Difluoro-benzo[d]isoxazol-3-yl)-piperazin-1-yl]-ethyl}-cyclo-hexylamine hydrochloride | Cl.FC=1C=C(C2=C(C(=NO2)N2CCN(CC2)CC[C@@H]2CC[C@H](CC2)N)C1)F | InChI=1S/C19H26F2N4O.ClH/c20-14-11-16-18(17(21)12-14)26-23-19(16)25-9-7-24(8-10-25)6-5-13-1-3-15(22)4-2-13;/h11-13,15H,1-10,22H2;1H/t13-,15-;
